US08633312B2
8-Chloro-1-methoxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one (4)
For the synthesis of the title compound, 16.6 g (0.057 mol) of [2-(3-chlorophenyl)-ethyl]-3-methoxybenzoic acid, 7.25 g (0.06 mol) of SOCl2, 250 ml of methylene chloride and 10 g of AlCl3 are employed in method K. Purification is carried out by column chromatography (flash; SiO2; hexane 90%/ethyl acetate 10%).

reactant | [2-(3-chlorophenyl)-ethyl]-3-methoxybenzoic acid | 0.057 mol, 16.6 g | ClC=1C=C(C=CC1)CCC1=C(C(=O)O)C=CC=C1OC | C16H15ClO3
reactant | SOCl2 | 0.06 mol, 7.25 g | O=S(Cl)Cl | Cl2OS
reactant | AlCl3 | 10 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 8-Chloro-1-methoxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | ClC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3OC)C1 | C16H13ClO2
